US06284889B1
1-Naphthylmalononitrile
With stirring and cooling, 0.3 mol of 1-naphthylaceto-nitrile and then, dropwise, 0.6 mol of 2-chlorobenzyl thiocyanate are added to a solution of 0.65 mol of lithium diisopropylamide in benzene. After one hour, the reaction mixture is introduced into 1 l of 0.3 molar NaOH, and the mixture is allowed to stand for a while and then the two phases which are formed are separated. The aqueous solution is neutralized by adding hydrochloric acid and allowed to stand overnight. The precipitated product is filtered off with suction, dried and purified by recrystallization from ethanol.

reactant | 1-naphthylaceto-nitrile | 0.3 mol | C1(=CC=CC2=CC=CC=C12)CC#N | C12H9N
reactant | 2-chlorobenzyl thiocyanate | 0.6 mol | ClC1=C(CSC#N)C=CC=C1 | C8H6ClNS
reactant | lithium diisopropylamide | 0.65 mol | C(C)(C)[N-]C(C)C.[Li+]
reactant | NaOH | 0.3 molar, 1 l | [OH-].[Na+]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-Naphthylmalononitrile | C1(=CC=CC2=CC=CC=C12)C(C#N)C#N | C13H8N2
